US09085583B2
To a solution of 2-methyl-2-(2-methyl-1H-indol-1-yl)propan-1-ol (780 mg, 3.8 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added sodium hydride (919 mg, 38.3 mmol) at 0° C. The resultant reaction mixture was allowed to stirred at 0° C. for 1 h. Iodomethane (5.4 g, 38.3 mmol) was added dropwise at 0° C., And then the resulting reaction mixture was allowed to stir for 3 hours at room temperature. The reaction mixture was quenched with water. The pH was adjusted to around 6 by progressively adding 2N hydro chloride below 0° C., extracted with acetic ester (50 mL×3). The combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph on silica gel eluted with (petrol ether/acetic ester 10:1→5:1) to give 1-(1-methoxy-2-methylpropan-2-yl)-2-methyl-1H-indole (800 mg, 96%) as a light yellow oil. LCMS (M+H+) m/z: calcd. 217.15. found 217.9.

reactant | 2-methyl-2-(2-methyl-1H-indol-1-yl)propan-1-ol | 3.8 mmol, 780 mg | CC(CO)(C)N1C(=CC2=CC=CC=C12)C | C13H17NO
reactant | sodium hydride | 38.3 mmol, 919 mg | [H-].[Na+]
reactant | Iodomethane | 38.3 mmol, 5.4 g | IC | CH3I
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(1-methoxy-2-methylpropan-2-yl)-2-methyl-1H-indole | 800 mg, 96% | COCC(C)(C)N1C(=CC2=CC=CC=C12)C | C14H19NO
